US05977141
{Isobutyl-[4-(4-phenyl-piperidin-1-yl)-benzene-sulfonyl]-amino}-acetic acid
In a manner similar to Example 3(b), [(4-fluoro-benzenesulfonyl)-isobutyl-amino]-acetic acid was condensed with 4-phenyl-piperidine hydrochloride to give the title compound, mp=140-143° C.

reactant | [(4-fluoro-benzenesulfonyl)-isobutyl-amino]-acetic acid | FC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)CC(=O)O | C12H16FNO4S
reactant | 4-phenyl-piperidine hydrochloride | Cl.C1(=CC=CC=C1)C1CCNCC1
product | {Isobutyl-[4-(4-phenyl-piperidin-1-yl)-benzene-sulfonyl]-amino}-acetic acid | C(C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1)CC(=O)O | C23H30N2O4S
